US06841549B1
(1) N4-(6-Methoxy-3-pyridyl)-6-chloro-4,5-pyrimidine diamine
40 mL conc. aqueous hydrochloric acid was added dropwise to 40 g of 5-amino-4,6-dichloropyrimidine and 60.5 g of 5-amino-2-methoxypyridine in 800 ml mixture of ethanol and water (1/1) at room temperature. This mixture was stirred at 130° C. for 7 hours and 20 minutes, and 800 mL water was added to the reaction mixture at room temperature. The resulting suspension was filtered to give crude crystals, and then the crude crystals were subjected to re-crystallization from dimethylformamide and water, to give the title compound (32.7 g, 53% y) as greenish brown crystals. (2) 5-(6-Chloro-9H-9-purinyl)-2-pyridyl methyl ether

reactant | hydrochloric acid | 40 mL | Cl | ClH
reactant | 5-amino-4,6-dichloropyrimidine | 40 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | 5-amino-2-methoxypyridine | 60.5 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | ethanol | C(C)O | C2H6O
solvent | water | 800 mL | O | H2O
product | N4-(6-Methoxy-3-pyridyl)-6-chloro-4,5-pyrimidine diamine | 32.7 g, 53% | COC1=CC=C(C=N1)NC1=NC=NC(=C1N)Cl | C10H10ClN5O
